US05246915
The complete yield of N-(2,2-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester of the process a) is added dropwise with cooling to 5° C. to 67.8 ml of formic acid. Additionally 24.9 ml of acetic anhydride are added, and the mixture is kept at room temperature for 70 hours. Destillation under vacuum affords 35.2 g of N-formyl-N-(2,2-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester having a melting point of 74°-75° C.

reactant | N-(2,2-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester | COC(CNC1C(CCC2=CC=CC=C12)(C)C)=O | C15H21NO2
reactant | acetic anhydride | 24.9 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | C(=O)O | CH2O2
product | N-formyl-N-(2,2-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester | 35.2 g | COC(CN(C1C(CCC2=CC=CC=C12)(C)C)C=O)=O | C16H21NO3
